US20010047115A1
Into a 500 ml four-necked flask equipped with a stirrer, a reflux condenser and a dropping funnel, 120 g (1.84 mol) of zinc was introduced, and 200 ml of dimethylformamide was introduced thereinto in an atmosphere of an inert gas. Then, the pressure in the system was reduced to 4 kPa, and the internal temperature was adjusted to from 50 to 55° C., and 100 g (0.23 mol) of CF2ClCFClCF2CFClOCFClCF2Cl was dropwise added thereto gradually by the dropping funnel, and the resulting product was quickly taken out by distillation during the reaction. Then, the crude product was purified to obtain 39 g (yield 60%) of pure CF2═CFCF2CFClOCF═CF2 (4-chloro-1,1,2,4,5,5,6,7,7-nonafluoro-3-oxa-1,6-heptadiene). Hereinafter this compound will be referred to as a monomer B.

reactant | 1,2,4,6,7-pentachloro-1,1,2,4,5,5,6,7,7-nonafluoro-3-oxa-heptane | 0.23 mol, 100 g | ClC(C(OC(C(C(C(F)(F)Cl)(F)Cl)(F)F)(F)Cl)(F)Cl)(F)F | C6Cl5F9O
catalyst | zinc | 1.84 mol, 120 g | [Zn] | Zn
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | CF2═CFCF2CFClOCF═CF2 | 39 g, yield 60% | C(F)(F)=C(F)C(F)(F)C(F)(Cl)OC(F)=C(F)F | C6ClF9O
